US07795283B2
i) 4-(2-bromo-4-nitrophenyl)morpholine
Morpholine (7.92 mL, 90.9 mmol) was added to a solution of 2-bromo-1-fluoro-4-nitrobenzene (10 g, 45.5 mmol) in acetonitrile (100 mL) and the mixture was heated under reflux for 6 h. Volatile material was removed by evaporation and the residue was diluted with water (100 mL) then extracted with ethyl acetate (2×100 mL). The organic extracts were combined, dried and concentrated to give the title compound (12.9 g, 99%) as a solid; 1H NMR δ 8.40 (1H, s), 8.20 (1H, d), 7.10 (1H, d), 3.80-3.70 (4H, m), 3.20-3.10 (4H, m); MS m/e MH+ 287.

reactant | Morpholine | 90.9 mmol, 7.92 mL | N1CCOCC1 | C4H9NO
reactant | 2-bromo-1-fluoro-4-nitrobenzene | 45.5 mmol, 10 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3BrFNO2
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 4-(2-bromo-4-nitrophenyl)morpholine | 12.9 g, 99% | BrC1=C(C=CC(=C1)[N+](=O)[O-])N1CCOCC1 | C10H11BrN2O3
